US05432182
B. Preparation of ethyl-2-butyryl-3-(3-benzoyloxymethyl-phenylamino)acrylate
To a stirred and cooled (ice-bath) solution of ethyl-2-butyryl-3-(3-hydroxymethylphenylamino)acrylate (29.13 g, 0.1 mol) in pyridine was added dropwise benzoyl chloride (21.09 g, 0.15 mol). The ice bath was removed and the mixture stood for 16 hours, then evaporated, treated with chloroform (200 ml) and washed with saturated aqueous sodium bicarbonate (200 ml), water (200 ml), and 2N hydrochloric acid (2×150 ml). After drying (Na2SO4) and stirring with charcoal, the solution was filtered and evaporated to an oil, which crystallised slowly under petroleum ether (b.p. 40-60) to give the title compound (34.5 g) m.p. 59°-63°.

reactant | ethyl-2-butyryl-3-(3-hydroxymethylphenylamino)acrylate | 0.1 mol, 29.13 g | C(C)OC(C(=CNC1=CC(=CC=C1)CO)C(CCC)=O)=O | C16H21NO4
reactant | benzoyl chloride | 0.15 mol, 21.09 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl-2-butyryl-3-(3-benzoyloxymethyl-phenylamino)acrylate | 34.5 g | C(C)OC(C(=CNC1=CC(=CC=C1)COC(C1=CC=CC=C1)=O)C(CCC)=O)=O | C23H25NO5
